US09060519B2
To 1-[4-chloro-2-(3-pyridyl)thiazol-5-yl]ethanone (0.5 g, 2.1 mmol) in a mixture of pyridine (2 ml) and methanol (15 ml) was added hydroxylamine hydrochloride (0.29 g, 4.2 mmol). The resluting solution was stirred at ambient temperature for 18 hours. The precipitated white solid was filtered and dried at vacuum to afford the desired 1-[4-chloro-2-(3-pyridyl)thiazol-5-yl]ethanone oxime. 1H NMR (300 Mz, DMSO-d6): δ:12.2 (s, 0.29H), 11.89 (s, 0.69H), 9.10 (s, 1H), 8.70 (d, 1H, J=4.8 Hz), 8.30 (m, 1H), 7.55 (m, 1H), 2.41 (s, 1H), 2.29 (s, 2H).

reactant | 1-[4-chloro-2-(3-pyridyl)thiazol-5-yl]ethanone | 2.1 mmol, 0.5 g | ClC=1N=C(SC1C(C)=O)C=1C=NC=CC1 | C10H7ClN2OS
reactant | hydroxylamine hydrochloride | 4.2 mmol, 0.29 g | Cl.NO
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 15 ml | CO | CH4O
product | 1-[4-chloro-2-(3-pyridyl)thiazol-5-yl]ethanone oxime | ClC=1N=C(SC1C(C)=NO)C=1C=NC=CC1 | C10H8ClN3OS
